US06635771B2
4-{2-[1-benzhydryl-5-chloro-2-(2-{[(trifluoromethyl)sulfonyl]amino}ethyl)-1H-indol-3-yl ]ethoxy}benzoic acid
To the methyl 4-{2-[2-(2-aminoethyl)-1-benzhydryl-5-chloro-1H-indol-3-yl]ethoxy}benzoate (Step 5, Example 1 )was added trifluoromethylsulfonyl chloride according to the procedure in Example 1 Step 7 to generate the product in 49% yield.

reactant | methyl 4-{2-[2-(2-aminoethyl)-1-benzhydryl-5-chloro-1H-indol-3-yl]ethoxy}benzoate | NCCC=1N(C2=CC=C(C=C2C1CCOC1=CC=C(C(=O)OC)C=C1)Cl)C(C1=CC=CC=C1)C1=CC=CC=C1 | C33H31ClN2O3
reactant | trifluoromethylsulfonyl chloride | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
product | 4-{2-[1-benzhydryl-5-chloro-2-(2-{[(trifluoromethyl)sulfonyl]amino}ethyl)-1H-indol-3-yl ]ethoxy}benzoic acid | 49% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Cl)CCOC1=CC=C(C(=O)O)C=C1)CCNS(=O)(=O)C(F)(F)F | C33H28ClF3N2O5S
